US08110581B2
Step 2. tert-butyl 2,4-dioxo-1,3,7-triazaspiro[4.5]decane-7-carboxylate
A mixture of tert-butyl 3-oxopiperidine-1-carboxylate (0.20 g, 0.0010 mol), potassium cyanide (0.13 g, 0.0020 mol) and ammonium carbonate (0.77 g, 0.0080 mol) in ethanol (4.0 mL, 0.068 mol) and water (2.0 mL) was stirred at 70° C. for 4 h. The mixture was then diluted with ethyl acetate and washed with water, brine, dried and concentrated to give the desired product. LC-MS: 292.0 (M+Na)+.

reactant | tert-butyl 3-oxopiperidine-1-carboxylate | 0.0010 mol, 0.20 g | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | potassium cyanide | 0.0020 mol, 0.13 g | [C-]#N.[K+]
reactant | ammonium carbonate | 0.0080 mol, 0.77 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | 0.068 mol, 4.0 mL | C(C)O | C2H6O
solvent | water | 2.0 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2,4-dioxo-1,3,7-triazaspiro[4.5]decane-7-carboxylate | O=C1NC2(C(N1)=O)CN(CCC2)C(=O)OC(C)(C)C | C12H19N3O4
